* C:\work\E344\E344\Ass3\Draft1.asc
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 TL081
V1 5V 0 5
V2 N002 0 0.33
XU2 N002 N001 5V 0 N001 TLC2272
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
.tran 0 1 0 1
.backanno
.end
