* C:\work\E344\E344\Ass3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
R1 N008 N007 100k
R2 N007 Vtempsensor 100k
C3 N007 N002 159n
C4 0 N008 79n
XU2 N008 N002 5v 0 N002 TLC2272
R3 N001 ofset 21k
R4 N004 filter-out 21k
R5 Vtempoutadc N001 400k
R6 Vgnd N004 400k
R7 5v N009 1907
R8 N009 0 1k
XU3 N004 N001 5v 0 Vtempoutadc TLC2272
R9 5v Vgnd 5k
R10 Vgnd 0 5k
R11 N006 N005 100k
R12 N005 N002 100k
C5 N005 filter-out 159n
C6 0 N006 79n
XU4 N006 filter-out 5v 0 filter-out TLC2272
XU5 N009 ofset 5v 0 ofset TL081
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nW. Deyzel.,  21750793\nVtempsensor for 0degC = 580 mV\ndelta Vtempsensor = 30 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LM78XX_RS.lib
.backanno
.end
