* C:\work\E344\E344\Ass3\Assignment3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N001 0 9
R_Sense 9V N001 0.010
XU1 9V 0 5V LM7805
R1 N008 N007 100k
R2 N007 Vtempsensor 100k
C1 N007 N003 159n
C2 0 N008 79n
XU4 N008 N003 5v 0 N003 TLC2272
R3 N002 ofset 21k
R4 N004 filter-out 21k
R5 Vtempoutadc N002 400k
R6 Vgnd N004 400k
R7 5v N009 1907
R8 N009 0 1k
XU5 N004 N002 5v 0 Vtempoutadc TLC2272
R9 5v Vgnd 5k
R10 Vgnd 0 5k
R11 N006 N005 100k
R12 N005 N003 100k
C3 N005 filter-out 159n
C4 0 N006 79n
XU6 N006 filter-out 5v 0 filter-out TLC2272
XU7 N009 ofset 5v 0 ofset TL081
C5 9V 0 0.33µ
C6 5V 0 0.1µ
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\nVtempsensor for 0degC = 500 mV\ndelta Vtempsensor = 10 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LM78XX_RS.lib
.backanno
.end
