* C:\work\E344\E344\Ass2\LTSpice\Draft2.asc
XU1 N004 N002 5v 0 N003 LT1018
A1 0 0 0 0 0 0 VoutBeatPulses 0 DFLOP
V1 5v 0 5
V2 2v 0 1
V3 N001 0 4
R1 N002 N001 10k
R2 N004 2v 10k
R3 N003 N004 1m
.tran 3
.lib LTC1.lib
.backanno
.end
