* C:\work\E344\E344\Ass2\LTSpice\E344_Ass2_template.asc
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5v LM7805
C2 5v 0 0.33µ
C3 9V 0 0.1µ
R6 d c 100k
R7 c high-pass-out 100k
C7 filter-out c 900n
C8 0 d 450n
XU4 d filter-out 5v 0 filter-out TLC2272
R1 5v f 160k
R2 f 0 100k
XU2 f ofset 5v 0 ofset TL081
R3 5v g 50k
R4 g 0 50k
R5 f ofset 20k
R8 e filter-out 20k
R9 amplify f 700k
R10 Vgnd e 700k
XU3 e f 5v 0 amplify TLC2272
XU5 b high-pass-out 5v 0 high-pass-out TLC2272
R11 b ofset 400k
R12 high-pass-out a 400k
C1 b a 550n
C4 a Stimulus 550n
XU7 N005 N004 5v 0 VoutBeatPulses LT1018
XU6 g Vgnd 5v 0 Vgnd TL081
R13 5v h 117390
R14 h 0 100k
XU8 h ref 5v 0 ref TL081
R16 N005 amplify 10k
R17 N004 ref 10k
R15 VoutBeatPulses N005 1000000
C5 Vgnd 0 0.33µ
C6 ofset 0 0.33µ
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* W. Deyzel.,  21750793\nDC = 1900 mV\nHeart rate pk = 66.6 mV
.incl TLC2272.LIB
.incl TL081.lib
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
