* C:\work\E344\E344\Ass2\LTSpice\analogue.asc
A1 N001 0 N003 0 N004 0 N002 0 DFLOP Td=1ps
V1 N003 0 PULSE(0 1 0 1n 1n 275m 400m)
V2 N001 0 5
C1 N004 0 10µ
R1 N002 N004 100k
R2 f NC_02 100k
R3 amplify f 4800k
V3 e 0 2.5
XU1 e f 5v 0 amplify level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 0 30 0 1m
.incl TLC2272.LIB
.incl TL081.lib
.lib UniversalOpamps2.sub
.backanno
.end
