* C:\work\E344\E344\Ass2\LTSpice\test2.asc
V1 5v 0 5
V2 0 -5v 5
R1 N001 N004 250k
R2 N002 N001 250k
R3 N006 N005 100k
R4 N006 N003 100k
XU1 N005 N003 5v 0 N002 TL081
C1 N001 N006 1µ
C2 N005 N001 1µ
V3 N004 0 SINE(0 1 1) AC 1
R5 N002 N003 500k
V4 N006 0 2
XU2 N013 N008 5v 0 N008 TL081
C4 N007 N004 1µ
C5 N013 N007 1µ
R7 N013 N014 250k
V11 N014 0 2
R8 N008 N007 250k
R9 N009 N008 25k
R10 N012 N009 25k
XU3 N012 N011 5v 0 N010 TL081
C6 N012 N014 1µ
R11 N011 N014 65k
R12 N010 N011 250k
C7 N010 N009 1µ
.incl TLC2272.LIB
.incl TL081.lib
.tran 0 10 0 1m
.backanno
.end
