* C:\work\E344\E344\LTSpice\21750793.asc
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N009 0 9
R_Sense 9V N009 0.010
XU3 9V 0 5v LM7805
C1 9V 0 0.33µ
C3 5v 0 0.1µ
R1 N011 N005 300k
R2 N005 Stimulus 300k
C2 N006 N005 63n
C4 0 N011 32n
XU1 N011 N006 5v 0 N006 TLC2272
R3 N003 N007 21k
R4 N008 filter 21k
R5 Vout N003 400k
R6 Vgnd N008 400k
R7 5v ofset 10k
R ofset 0 10k
XU4 N008 N003 5v 0 Vout TLC2272
R9 5v Vgnd 5k
R10 Vgnd 0 5k
V6 N007 0 1.72
R8 N010 N004 100k
R11 N004 N006 100k
C5 filter N004 64n
C6 0 N010 32n
XU2 N010 filter 5v 0 filter TLC2272
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* W. Deyzel,  21750793\nV(0degV) = 580 mV\ndeltaV/degV = 30 mV
.incl TLC2272.LIB
.incl TL081.lib
.lib C:\work\E344\E344\LTSpice\LM7805.LIB
.backanno
.end
