* C:\work\E344\E344\LTSpice\Deyzel_21750793_A1.asc
V2 N005 N004 PWL file=PWLinput.csv
V3 Stimulus N005 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N004 0 {dcAmplitude}
V4 N010 0 9
R_Sense 9V N010 0.010
XU3 9V 0 5v LM7805
C1 9V 0 0.33µ
C3 5v 0 0.1µ
R1 N009 N002 100k
R2 N002 Stimulus 100k
C2 N003 N002 159n
C4 0 N009 79n
XU1 N009 N003 5v 0 N003 TLC2272
R3 N006 ofset 21k
R4 N007 filter-out 21k
R5 Vout N006 400k
R6 Vgnd N007 400k
R7 5v N011 1907
R N011 0 1k
XU4 N007 N006 5v 0 Vout TLC2272
R9 5v Vgnd 5k
R10 Vgnd 0 5k
R8 N008 N001 100k
R11 N001 N003 100k
C5 filter-out N001 159n
C6 0 N008 79n
XU2 N008 filter-out 5v 0 filter-out TLC2272
XU5 N011 ofset 5v 0 ofset TL081
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* W. Deyzel,  21750793\nV(0degV) = 580 mV\ndeltaV/degV = 30 mV
.incl TLC2272.LIB
.incl TL081.lib
.lib C:\work\E344\E344\LTSpice\LM7805.LIB
.backanno
.end
